US09079860B2
Part A: tert-Butyl 4-cyano-2-fluorobenzoate
4-Cyano-2-fluorobenzoic acid (1.0 g, 6.1 mmol) was dissolved in t-BuOH (9 mL) and THF (3 mL). Boc anhydride (2.64 g, 12.1 mmol) was added followed by DMAP (0.24 g, 1.97 mmol). The mixture was stirred at RT under N2 for 12 h. The solvents were removed. The residue was dissolved in EtOAc and washed with saturated aqueous NaHCO3 and brine. It was dried over MgSO4 and concentrated to an oil which became solid under vacuum (1.3 g). 1HNMR (400 MHz, d4-MeOH) δ 1.59 (s, 9H), 7.44 (dd, J=25.71 and 9.01 Hz, 2H), 7.95 (m, 1H).

reactant | 4-Cyano-2-fluorobenzoic acid | 6.1 mmol, 1.0 g | C(#N)C1=CC(=C(C(=O)O)C=C1)F | C8H4FNO2
reactant | Boc anhydride | 12.1 mmol, 2.64 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-BuOH | 9 mL | CC(C)(C)O | C4H10O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 1.97 mmol, 0.24 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 4-cyano-2-fluorobenzoate | C(#N)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C12H12FNO2
